US09376449B2
To a mixture of 3-(2-aminoethyl)-5-methoxy-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid (123 mg) and tetrahydrofuran (2.00 mL) were added diisopropylethylamine (0.448 mL) and acetic anhydride (0.074 mL), followed by stirring at room temperature overnight. To the mixture was added a 1 M aqueous sodium hydroxide solution (3.00 mL), followed by stirring for 1 hour, and then 1 M hydrochloric acid (3.00 mL) was added thereto, followed by concentrating under reduced pressure. The residue was suspended in ethanol, the insoluble materials were separated by filtration, and then the filtrate was concentrated under reduced pressure. To a mixture of the obtained residue (144 mg), methylamine hydrochloride (175 mg), diisopropylethylamine (0.622 mL), and N,N-dimethyl formamide (4.65 mL) was added 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (592 mg), followed by stirring at room temperature overnight. To the mixture was added water, followed by extraction with ethyl acetate, and the organic layer was washed with saturated brine and then dried over anhydrous sodium sulfate. The insoluble materials were separated by filtration and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform:methanol=100:1 to 20:1) and the obtained crude product was solidified with diethyl ether and the obtained solid was collected by filtration and dried under reduced pressure to obtain 3-(2-acetamidoethyl)-5-methoxy-N-methyl-1H-pyrrolo[3,2-b]pyridine-2-carboxamide (81.0 mg) as a pale yellow solid.

reactant | 3-(2-aminoethyl)-5-methoxy-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid | 123 mg | NCCC1=C(NC=2C1=NC(=CC2)OC)C(=O)O | C11H13N3O3
reactant | diisopropylethylamine | 0.448 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetic anhydride | 0.074 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | 1 M, 3.00 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 M, 3.00 mL | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 2.00 mL | O1CCCC1 | C4H8O
product | 3-(2-acetamidoethyl)-5-methoxy-N-methyl-1H-pyrrolo[3,2-b]pyridine-2-carboxamide | 81.0 mg | C(C)(=O)NCCC1=C(NC=2C1=NC(=CC2)OC)C(=O)NC | C14H18N4O3
